US07705027B2
2,4-Bis-benzyloxy-1-isopropenyl-benzene was taken up in solution in ethanol and added to 10% palladium on carbon, which had been pre-wetted with water. Hydrogen was introduced to the flask and the mixture was allowed to shake for 16 hours. The catalyst was filtered from the reaction mixture, by a suitable method, and the liquor was concentrated in vacuo, to give 4-isopropyl-benzene-1,3-diol as a white crystalline solid.

reactant | 2,4-Bis-benzyloxy-1-isopropenyl-benzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(=C)C | C23H22O2
reactant | water | O | H2O
reactant | Hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-isopropyl-benzene-1,3-diol | C(C)(C)C1=C(C=C(C=C1)O)O | C9H12O2
